US06858630B2
2-[5-(3,4-dimethylphenyl)-furan-2-yl]-9-hydroxy-3H-naphtho[1,2-d]imidazole-7-carboxylic acid (Compound 137)
To an agitated solution of 5-(3,4-dimethylphenyl)-furan-2-carbaldehyde (0.030 g, 0.15 mmol) in EtOH (0.80 mL) was added 7,8-diamino-1-hydroxy-3-naphthoic acid dihydrochloride (0.029 g, 0.10 mmol) and sodium bisulfite (30 mg) in water (0.20 mL). The solution was heated to 60° C. and agitated overnight. The solution was cooled to room temperature, the tan precipitate was isolated by filtration and washed with water and ethyl acetate to provide the title compound (0.007 g, 15%) MS(ES) m/z 399 [M−H].

reactant | 5-(3,4-dimethylphenyl)-furan-2-carbaldehyde | 0.15 mmol, 0.030 g | CC=1C=C(C=CC1C)C1=CC=C(O1)C=O | C13H12O2
reactant | 7,8-diamino-1-hydroxy-3-naphthoic acid dihydrochloride | 0.10 mmol, 0.029 g | Cl.Cl.NC1=CC=C2C=C(C=C(C2=C1N)O)C(=O)O
reactant | sodium bisulfite | 30 mg | S([O-])(O)=O.[Na+]
solvent | EtOH | 0.80 mL | CCO | C2H6O
solvent | water | 0.20 mL | O | H2O
product | 2-[5-(3,4-dimethylphenyl)-furan-2-yl]-9-hydroxy-3H-naphtho[1,2-d]imidazole-7-carboxylic acid | 0.007 g, 15% | CC=1C=C(C=CC1C)C1=CC=C(O1)C=1NC2=C(N1)C1=C(C=C(C=C1C=C2)C(=O)O)O | C24H18N2O4
